### PR TITLE
[Merged by Bors] - feat(RingTheory): `H¹(L)` under localization

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 1]
```diff
@@ -51,3 +60,306 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+    refine ⟨a, Subtype.ext (.trans ?_ ((LinearEquiv.eq_symm_apply _).mp ha))⟩
+    show (h1Cotangentι ∘ₗ (H1Cotangent.map f).liftBaseChange T) _ =
+      ((Cotangent.map f).liftBaseChange T ∘ₗ h1Cotangentι.baseChange T) _
+    congr 1
+    ext; simp
+
+variable (R T) in
+/-- let `p` be a submonoid of an `R`-algebra `S`. Then `Sₚ ⊗ H¹(L_{S/R}) ≃ H¹(L_{Sₚ/R})`. -/
+noncomputable
+def _root_.Algebra.tensorH1CotangentOfIsLocalization (M : Submonoid S) [IsLocalization M T] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:251]: Maybe just `end Extension` before this def?

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 2]
```diff
@@ -51,3 +60,306 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+0 → I → P → S → 0
+```
+-/
+variable {P : Extension.{u} R S} {Q : Extension.{u} R T} (f : P.Hom Q)
+
+/-- If `P → Q` is formally etale, then `T ⊗ₛ (S ⊗ₚ Ω[P/R]) ≃ T ⊗_Q Ω[Q/R]`. -/
+noncomputable
+def tensorCotangentSpace
+    (H : letI := f.toRingHom.toAlgebra; FormallyEtale P.Ring Q.Ring) :
+    T ⊗[S] P.CotangentSpace ≃ₗ[T] Q.CotangentSpace :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:86]:
```suggestion
    (H : f.toRingHom.FormallyEtale) :
    T ⊗[S] P.CotangentSpace ≃ₗ[T] Q.CotangentSpace :=
```
EDIT: `RingHom.FormallyEtale` does not yet exist. Maybe add a `-- TODO` to clean this up, when it exists?

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 3]
```diff
@@ -51,3 +60,306 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+  letI f' : Q.ker →ₗ[Q.Ring] T ⊗[S] P.Cotangent :=
+    (LinearMap.liftBaseChange _
+      ((TensorProduct.mk _ _ _ 1).restrictScalars _ ∘ₗ Cotangent.mk)) ∘ₗ e.symm.toLinearMap
+  { __ := (Cotangent.map f).liftBaseChange T
+    invFun :=
+      QuotientAddGroup.lift _ f' <| by
+        intro x hx
+        refine Submodule.smul_induction_on hx ?_ fun _ _ ↦ add_mem
+        clear x hx
+        rintro a ha b -
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:154]: I think this proof would profit from factoring these three fields out in separate (private) definitions.

File: Mathlib/RingTheory/Extension.lean [hunk 4]
```diff
@@ -231,6 +231,15 @@ lemma Hom.comp_id (f : Hom P P') : f.comp (Hom.id P) = f := by ext; simp
 lemma Hom.id_comp (f : Hom P P') : (Hom.id P').comp f = f := by
   ext; simp [Hom.id, aeval_X_left]
 
+/-- A map between extensions induce a map between kernels. -/
+def Hom.mapKer (f : P.Hom P')
+    [alg : Algebra P.Ring P'.Ring] (halg : alg = f.toRingHom.toAlgebra) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Extension.lean:236]: Maybe `algebraMap P.Ring P'.Ring = f` would be easier to use?

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 5]
```diff
@@ -51,3 +60,306 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+      | tmul a b =>
+        subst halg
+        letI := f.toRingHom.toAlgebra
+        simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, LinearMap.coe_restrictScalars,
+          LinearEquiv.symm_apply_apply, LinearMap.liftBaseChange_tmul, Function.comp_apply,
+          mk_apply, LinearMap.map_smul_of_tower, Cotangent.map_mk, Hom.toAlgHom_apply, one_smul, f']
+        simp only [LinearEquiv.ofBijective_apply, LinearMap.liftBaseChange_tmul, map_smul, e]
+        rfl }
+
+/-- If `J ≃ Q ⊗ₚ I`, `S → T` is flat, and `P → Q` is formaly etale, then `T ⊗ H¹(L_P) ≃ H¹(L_Q)`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:209]:
```suggestion
/-- If `J ≃ Q ⊗ₚ I`, `S → T` is flat, and `P → Q` is formally etale, then `T ⊗ H¹(L_P) ≃ H¹(L_Q)`. -/
```

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 6]
```diff
@@ -51,3 +60,306 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+      simp only [one_smul, ← hx, LinearEquiv.symm_apply_apply]
+      show (((CotangentSpace.map f).liftBaseChange T).restrictScalars Q.Ring ∘ₗ
+        LinearMap.liftBaseChange _ _) x = ((TensorProduct.mk _ _ _ 1) ∘ₗ
+          (tensorKaehlerEquivOfFormallyEtale R P.Ring Q.Ring).toLinearMap) x
+      congr 1
+      ext a
+      simp; rfl }
+
+set_option maxHeartbeats 220000 in
+/-- If `J ≃ Q ⊗ₚ I` (e.g. when `T = Q ⊗ₚ S` and `P → Q` is flat), then `T ⊗ₛ I/I² ≃ J/J²`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:129]: Do we already have that `H` follows from the `e.g.`?

**Comment by chrisflav** [comment]
For the record, I think the large import here is harmless. The file only contained a few lines before this PR and the added import seems reasonable to me.

File: Mathlib/RingTheory/Etale/Kaehler.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/Kaehler.lean:154]: It is a bit hard to do so because of the local instances and definitions above it. Or do you think it would be better if those instances are redeclared in each of the separate definitions?

File: Mathlib/RingTheory/Etale/Kaehler.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/Kaehler.lean:129]: We have all the mathematical ingredients but not the exact statement.

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 7]
```diff
@@ -51,3 +60,301 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
...
+          LinearEquiv.symm_apply_apply, LinearMap.liftBaseChange_tmul, Function.comp_apply,
+          mk_apply, LinearMap.map_smul_of_tower, Cotangent.map_mk, Hom.toAlgHom_apply, one_smul, f']
+        simp only [LinearEquiv.ofBijective_apply, LinearMap.liftBaseChange_tmul, map_smul, e]
+        rfl }
+
+/-- If `J ≃ Q ⊗ₚ I`, `S → T` is flat and `P → Q` is formally etale, then `T ⊗ H¹(L_P) ≃ H¹(L_Q)`. -/
+noncomputable
+def tensorH1Cotangent [alg : Algebra P.Ring Q.Ring] (halg : algebraMap P.Ring Q.Ring = f.toRingHom)
+    [Module.Flat S T]
+    (H₁ : letI := f.toRingHom.toAlgebra; FormallyEtale P.Ring Q.Ring)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Kaehler.lean:209]: This is strange, is `(H₁ : FormallyEtale P.Ring Q.Ring)` not sufficient?

File: Mathlib/RingTheory/Etale/Basic.lean [hunk 8]
```diff
@@ -214,3 +214,24 @@ theorem of_isLocalization_Away (r : R) [IsLocalization.Away r A] : Etale R A whe
...
 
 end Algebra
+
+namespace RingHom
+
+variable {R S : Type u} [CommRing R] [CommRing S]
+
+/--
+A ring homomorphism `R →+* A` is formally etale it is formally unramified and formally smooth.
+See `Algebra.FormallyEtale`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Basic.lean:224]:
```suggestion
A ring homomorphism `R →+* A` is formally etale if it is formally unramified and formally smooth.
See `Algebra.FormallyEtale`.
```

File: Mathlib/RingTheory/Etale/Kaehler.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Etale/Kaehler.lean:129]: Okay, since this PR is already long, let's not make it longer for now.

**Comment by chrisflav** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
